US07799787B2
Methyl (6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazin-3-yl)carbamate
A mixture of 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylic acid (150 mg, 0.4 mmol), DPPA (100 μL, 0.46 mmol) and Et3N (65 μL, 0.46 mmol) in DMF (1.5 mL) was stirred at r.t. overnight. MeOH (150 μL, 3.7 mmol) was then added and the mixture was heated at 65-70° C. for 6 h. After cooling, the mixture was diluted with water and extracted with EtOAc. The EtOAc extract was washed twice with water, dried (Na2SO4) and concentrated. CombiFlash chromatography (10 g, 40-80% EtOAc in hexanes in 20 min, 20 mL/min, 15 mL/fraction) gave the title compound as a white solid. 1H NMR (500 MHz, acetone-d6): δ 1.89-1.97 (m, 2H), 2.15 (m, 2H), 3.65-3.71 (m, 2H), 3.76 (s, 3H), 3.87-3.93 (m, 2H), 4.94-4.98 (m, 1H), 7.11 (t, 1H), 7.37 (m, 2H), 7.61-7.67 (m, 2H), 8.00 (d, 1H), 9.11 (s, 1H). MS (+ESI) m/z 397 (MH+).

reactant | 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylic acid | 0.4 mmol, 150 mg | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)C(=O)O)C=CC=C1)(F)F | C17H16F3N3O3
reactant | DPPA | 0.46 mmol, 100 μL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 0.46 mmol, 65 μL | CCN(CC)CC | C6H15N
reactant | MeOH | 3.7 mmol, 150 μL | CO | CH4O
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl (6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazin-3-yl)carbamate | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)NC(OC)=O)C=CC=C1)(F)F | C18H19F3N4O3
